US06054448
2-Amino-2-(3,3-dicarboxycyclobutyl)-4,4-diphenylbutanoic acid
A solution of 5-(3,3-dicarboxycyclobutyl)-5-(2,2-diphenylethyl)imidazolidine-2,4-dione (0.21 g, 0.5 mmol) in 2M sodium hydroxide (4 ml) was heated to 150° C. for 4 days in a PTFE lined stainless steel pressure vessel. After cooling, the mixture was filtered and the filtrate acidified with 5M hydrochloric acid (2 ml). The precipitate was cooled and filtered, washed with water and dried to give the title product (m.p. 182-185° C. with effervescence). 1H NMR (D2O/NaOH) δ 7.21-7.50 (10H, m)), 4.06 (1H, dd), 2.44-2.63 (2H, m), 2.11-2.38 (5H, m).

reactant | 5-(3,3-dicarboxycyclobutyl)-5-(2,2-diphenylethyl)imidazolidine-2,4-dione | 0.5 mmol, 0.21 g | C(=O)(O)C1(CC(C1)C1(C(NC(N1)=O)=O)CC(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C23H22N2O6
reactant | sodium hydroxide | 2M, 4 ml | [OH-].[Na+]
product | 2-Amino-2-(3,3-dicarboxycyclobutyl)-4,4-diphenylbutanoic acid | NC(C(=O)O)(CC(C1=CC=CC=C1)C1=CC=CC=C1)C1CC(C1)(C(=O)O)C(=O)O | C22H23NO6
